US06579983B1
N-[3-(5-Cyano-4-thiophen-2-ylpyrimidin-2-ylamino)phenyl]-4-(4-methylpiperazin-1-ylmethyl)benzamide
A solution of N-3-aminophenyl-5-cyano-4-thien-2-ylpyrimidine-2-amine (300 mg, 1.0 mmol) and 4-(4-methylpiperazin-1-yl)methylbenzoic acid, lithium salt (300 mg, 1.0 mmol) in DMF (10 mL) was treated with 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide (307 mg, 1.6 mmol), 1-hydroxybenzotriazole (216 mg, 1.6 mmol) and N-methylmorpholine (350 ml, 3.2 μmol) and the resulting mixture was stirred at ambient temperature for 48 h. The reaction was then concentrated under reduced pressure and the resulting residue partitioned between ethyl acetate and saturated brine. The organic phase was dried (MgSO4), concentrated under reduced pressure and the resulting residue recrystallised from ethyl acetate-ether-MeOH (4:4:1) to give the title compound (312 mg) as a colourless solid, m.p. 208-209°. δH (d6 DMSO) 10.48 (1H, bs), 10.23 (1H, s), 8.89 (1h,s), 8.28 (1H, d, J 3.5 Hz), 8.13 (1H, m), 7.98 (1H, d, J 4.8 Hz), 7.90 (2H, d, J 8.2 Hz), 7.60 (1H, bs), 7.43 (3H, d, J 8.2 Hz), 7.36-7.30 (2H, s), 3.52 (2H, s), 2.37 (8H, bs) and 2.15 (3H,s).

reactant | N-3-aminophenyl-5-cyano-4-thien-2-ylpyrimidine-2-amine | 1.0 mmol, 300 mg | NC=1C=C(C=CC1)NC1=NC=C(C(=N1)C=1SC=CC1)C#N | C15H11N5S
reactant | 4-(4-methylpiperazin-1-yl)methylbenzoic acid | CN1CCN(CC1)CC1=CC=C(C(=O)O)C=C1 | C13H18N2O2
reactant | lithium | 1.0 mmol, 300 mg | [Li] | Li
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide | 1.6 mmol, 307 mg | CN(CCCN=C=NCC)C | C8H17N3
reactant | 1-hydroxybenzotriazole | 1.6 mmol, 216 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
catalyst | N-methylmorpholine | 3.2 μmol, 350 ml | CN1CCOCC1 | C5H11NO
product | N-[3-(5-Cyano-4-thiophen-2-ylpyrimidin-2-ylamino)phenyl]-4-(4-methylpiperazin-1-ylmethyl)benzamide | 312 mg | C(#N)C=1C(=NC(=NC1)NC=1C=C(C=CC1)NC(C1=CC=C(C=C1)CN1CCN(CC1)C)=O)C=1SC=CC1 | C28H27N7OS
